US04612317
Methyl (3R)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
(3R)-3-(2-Hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline (94 mg) is dissolved in 80% methanol (2.4 ml), and thereto are added CS2 (0.026 ml) and triethylamine (0.061 ml). The mixture is stirred at room temperature for 30 minutes, and thereto is added dropwise methyl iodide (0.027 ml), and the mixture is stirred at room temperature for 4 hours. The reaction mixture is distilled to remove the solvent. The residue is dissolved in ethyl acetate. The solution is washed with water, dried over sodium sulfate and then distilled to remove the solvent. The residue is purified by thin layer chromatography (solvent, ethyl acetate:n-hexane=2:3) to give the title compound (51 mg, 38.3%) as colorless needles, m.p. 166°-167° C., NMR (CDCl3, δ): 2.72 (s, 3H, CSSCH3); Mass m/e: 306 (M+), 258 (M+ --CH3SH); [α]D20 -178.0° (c=0.1, methanol).

reactant | (3R)-3-(2-Hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline | 94 mg | OCC[C@@H]1NCC=2NC3=CC=CC=C3C2C1 | C13H16N2O
reactant | CS2 | 0.026 ml | C(=S)=S | CS2
reactant | triethylamine | 0.061 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 0.027 ml | CI | CH3I
solvent | methanol | 2.4 ml | CO | CH4O
product | Methyl (3R)-3-(2-hydroxyethyl)-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 51 mg, 38.3% | OCC[C@@H]1N(CC=2NC3=CC=CC=C3C2C1)C(=S)SC | C15H18N2OS2
